US06013653
(+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one·CSA salt (15.0 g) was suspended in methanol (45 ml) and water (105 ml), and adjusted to pH10.6 with 8% aqueous sodium hydroxide (10 ml) at an interior temperature of 20~30° C. It was agitated for 1 hr at the same temperature, thereafter the crystals were collected by filtration, washed with water (45 ml), and thereafter dried overnight under vacuum to obtain (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one.

reactant | (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one·CSA | 15.0 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
solvent | water | 105 ml | O | H2O
product | (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C18H19N3O
